US05750531
Step 2: 6-ethyl-2-(2-methyl-4-fluorphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.77 ml, 6.93 mmol) was added to a mixture solution of 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.0 g, 3.47 mmol) and dimethylformamide(5 ml), 0.92 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methyl-4-fluoroaniline | 6.93 mmol, 0.77 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 3.47 mmol, 1.0 g | C(C)C1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(2-methyl-4-fluorphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.92 g, Yield: 64% | Cl.C(C)C1=CC(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C23H25FN4.ClH/c1-4-19-14-22(28-12-11-17-7-5-6-8-20(17)16(28)3)27-23(25-19)26-21-10-9-18(24)13-15(21)2;/h5-10,13-14,16H,4,11-12H2,1-3H3,(H,25,26,27);1H
